US07566803B2
F. t-Butyl (4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethylbutoxy)-3-methylphenyl]-propyl}-2-methylbenzyl)-(2-methanesulfonylethyl)carbamate
To a mixture of 1-[4-(1-ethyl-1-{4-[(2-methanesulfonylethyl-amino)methyl]-3-methylphenyl}propyl)-2-methylphenoxy]-3,3-dimethylbutan-2-ol (0.97 g, 1.92 mmol), NaHCO3 (0.32 g, 3.84 mmol), H2O (10 mL), and THF (5 mL), is added (Boc)2O (0.46 g, 2.11 mmol). The reaction is stirred overnight, diluted with H2O (10 mL), and extracted with EtOAc (2×20 mL). The combined organic layers are washed with 0.1 M HCl (15 mL), brine (10 mL); MgSO4 dried, and chromatographed (40% EtOAc/Hex) to give the title compound (0.86 g, 1.43 mmol, 74%).

reactant | 1-[4-(1-ethyl-1-{4-[(2-methanesulfonylethyl-amino)methyl]-3-methylphenyl}propyl)-2-methylphenoxy]-3,3-dimethylbutan-2-ol | 1.92 mmol, 0.97 g | C(C)C(CC)(C1=CC(=C(C=C1)CNCCS(=O)(=O)C)C)C1=CC(=C(OCC(C(C)(C)C)O)C=C1)C | C29H45NO4S
reactant | NaHCO3 | 3.84 mmol, 0.32 g | C(=O)(O)[O-].[Na+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | (Boc)2O | 2.11 mmol, 0.46 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
product | t-Butyl (4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethylbutoxy)-3-methylphenyl]-propyl}-2-methylbenzyl)-(2-methanesulfonylethyl)carbamate | 1.43 mmol, 0.86 g, 74% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C1=CC(=C(CN(C(OC(C)(C)C)=O)CCS(=O)(=O)C)C=C1)C | C34H53NO6S
